US05166152
3-(3-Amino-1,4-dihydro-1-phenyl-[1]-benzothiopyrano[4,3-c]pyrazol-3-yl)-2-cyano-3-oxo-N-phenyl-propanamide (1.2 g) dissolved in anhydrous dimethylformamide (70 ml) containing pyridine (1 ml) is reacted with ethyl oxalyl chloride (0.7 g) under stirring at room temperature for 6 hours. The reaction mixture is diluted with ice water and acidified to pH 4 with citric acid. The precipitate is filtered and washed with water. Crystallization from CHCl3 /ethanol yields 1.2 g of 2-cyano-3-(8-ethoxalylamino-1,4-dihydro-1-phenyl-[1]-benzothiopyrano[4,3-c]pyrazol-3-yl)-3-oxo-N-phenyl-propanamide, m.p. 273°-277° C.

reactant | 3-(3-Amino-1,4-dihydro-1-phenyl-[1]-benzothiopyrano[4,3-c]pyrazol-3-yl)-2-cyano-3-oxo-N-phenyl-propanamide | 1.2 g | NC1(C2=C(N(N1)C1=CC=CC=C1)C1=C(SC2)C=CC=C1)C(C(C(=O)NC1=CC=CC=C1)C#N)=O | C26H21N5O2S
reactant | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | 2-cyano-3-(8-ethoxalylamino-1,4-dihydro-1-phenyl-[1]-benzothiopyrano[4,3-c]pyrazol-3-yl)-3-oxo-N-phenyl-propanamide | 1.2 g | C(#N)C(C(=O)NC1=CC=CC=C1)C(=O)C=1C2=C(N(N1)C1=CC=CC=C1)C1=C(SC2)C=CC(=C1)NC(=O)C(=O)OCC | C30H23N5O5S
